US05827881
A! 200 ml (1.49 moles) of hexylamine cooled to 5° C. were added with benzyl bromide (42.3 ml, 0.35 mole), and the resultant mixture was stirred for 1 hour at room temperature. The hexylamine in excess was then distilled off under vacuum, and the residue dissolved in 300 ml of ethyl ether and washed with 200 ml of 0.5N sodium hydroxide. The ether phase was anhydrified over sodium sulfate and evaporated to dryness thus yielding 75.5 g of a crude which, by distillation under vacuum, gave 59 g (yield: 89%) of N-benzyl-N-hexylamine (b.p.--90°-95° C./0.6 mmHg).

reactant | hexylamine | 1.49 moles, 200 ml | C(CCCCC)N | C6H15N
reactant | benzyl bromide | 0.35 mole, 42.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | N-benzyl-N-hexylamine | 59 g, yield: 89% | C(C1=CC=CC=C1)NCCCCCC | C13H21N
